US03987047
2-Acetyl-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline-6-oxide
6 gm (23.8 millimols) of 2-acetyl-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline were dissolved in 7 ml of glacial acetic acid, and 4 ml of 30% hydrogen peroxide were added to the solution at room temperature. The mixture was subsequently heated at 60° to 80° C. for 2 hours. After distilling off the solvent, the mixture was dissolved in 2 N sodium hydroxide, the resulting solution was extracted with chloroform, the solvent was distilled out of the chloroform extract, and the residue was recrystallized from ethyl acetate.

reactant | 2-acetyl-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline | 23.8 millimols, 6 gm | C(C)(=O)N1CC=2C(=NC=3C=CC=CC3C2C)CCC1 | C16H18N2O
reactant | hydrogen peroxide | 4 ml | OO | H2O2
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 2-Acetyl-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline-6-oxide | C(C)(=O)N1CC=2C(=[N+](C=3C=CC=CC3C2C)[O-])CCC1 | C16H18N2O2
